US06107329
C. (±)-2-Amino-3-[4-(4,5-dihydro-1H-imidazol-2-yl)-phenyl]-propionic acid methyl ester
(±)-2-Amino-3-[4-(4,5-dihydro-1H-imidazol-2-yl)-phenyl]-propionic acid dihydrochloride (0.50 g, 1.6 mmol) was placed in thionyl chloride (1 mL) and methanol (25 mL). The mixture was heated to reflux for 30 minutes, at which time more thionyl chloride (3 mL) and methanol (75 mL) were added. After another 3 hours at reflux, the solution was concentrated, the residue was dissolved in a small amount of methanol and ethyl acetate was added to induce precipitation. The solid was collected and dried (0.40 g, mp 230° C. dec.).

reactant | (±)-2-Amino-3-[4-(4,5-dihydro-1H-imidazol-2-yl)-phenyl]-propionic acid dihydrochloride | 1.6 mmol, 0.50 g | Cl.Cl.NC(C(=O)O)CC1=CC=C(C=C1)C=1NCCN1
reactant | methanol | 25 mL | CO | CH4O
reactant | methanol | 75 mL | CO | CH4O
solvent | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | thionyl chloride | 3 mL | S(=O)(Cl)Cl | Cl2OS
product | (±)-2-Amino-3-[4-(4,5-dihydro-1H-imidazol-2-yl)-phenyl]-propionic acid methyl ester | COC(C(CC1=CC=C(C=C1)C=1NCCN1)N)=O | C13H17N3O2
